US07291615B2
(1S,2R,4R)—N-[2-(4-Acetyl-benzenesulfonylmethyl)-4-(isopropyl-methyl-amino)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide
(1S,2R,4R)—(N-[2-(4-Bromo-benzenesulfonylmethyl)-4-(isopropyl-methyl-amino)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide, Example 3, (50 mg) was dissolved in toluene (1 ml) prior to the addition of 1-ethoxyvinyltri-n-butyltin (0.5 ml), Pd(PPh3)4 (20 mg) and a few crystals of 2,6-tert-butyl-4-methyl phenol. The resulting solution was heated to reflux overnight. After cooling, the palladium catalyst was filtered off and the solution was concentrated. The residue was dissolved in dioxane (1 ml) prior to the addition of 1N HCl. The resulting solution was stirred at rt for 2 h. The solution was concentrated. Reverse phase HPLC purification (gradient elution, water/acetonitrile/TFA) of the resulting residue provided the title compound (8 mg). MS found: (M+H)+=593.5.

reactant | N-[2-(4-Bromo-benzenesulfonylmethyl)-4-(isopropyl-methyl-amino)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide | BrC1=CC=C(C=C1)S(=O)(=O)CC1C(CCC(C1)N(C)C(C)C)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C27H32BrF3N4O3S
reactant | 1-ethoxyvinyltri-n-butyltin | 0.5 ml | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1S,2R,4R)—N-[2-(4-Acetyl-benzenesulfonylmethyl)-4-(isopropyl-methyl-amino)-cyclohexyl]-2-(4-trifluoromethyl-1H-benzoimidazol-2-yl)-acetamide | 8 mg | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)C[C@H]1[C@H](CC[C@H](C1)N(C)C(C)C)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C29H35F3N4O4S
